US06159979
5-Bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-yl Carboxamide
The title compound was prepared from 5-bromo-1-naphthoic acid (J. Chem. Soc., 1950, 991) and 4-methoxy-3-(4-methylpiperazin-1-yl)aniline (EP0533268A1) using a similar procedure to Example 1.

reactant | 5-bromo-1-naphthoic acid | BrC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7BrO2
reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline | COC1=C(C=C(N)C=C1)N1CCN(CC1)C | C12H19N3O
product | 5-Bromo-N-[4-methoxy-3-(4-methylpiperazin-1-yl)phenyl]naphth-1-yl Carboxamide | BrC1=C2C=CC=C(C2=CC=C1)C(=O)NC1=CC(=C(C=C1)OC)N1CCN(CC1)C | C23H24BrN3O2
